US08258144B2
4-(4-(1-(2-cyanoacetyl)piperidin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide
To a suspension of cyanoacetic acid (46 mg, 0.54 mmol) in CH2Cl2 (1 mL) (containing 2 drops of DMF), oxalyl chloride (0.047 mL, 0.54 mmol) was added. The mixture was stirred at room temperature for 40 min. To the above solution cooled in an ice bath, a solution of 4-(4-(piperidin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide (18 mg, 0.051 mmol) and TEA (0.250 mL, 1.80 mmol) in DMF (2 mL) was added. The mixture was stirred for 2 h. Water was added. CH2Cl2 was removed in vacuo. The residue was purified by HPLC to give the titled compound (10 mg). MS 419.3 (M+H); UV 201.6, 311.9 nm.

reactant | cyanoacetic acid | 0.54 mmol, 46 mg | C(#N)CC(=O)O | C3H3NO2
reactant | oxalyl chloride | 0.54 mmol, 0.047 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-(piperidin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 0.051 mmol, 18 mg | N1CC(CCC1)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)NC=C2 | C18H21N7O
reactant | Water | O | H2O
catalyst | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(4-(1-(2-cyanoacetyl)piperidin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 10 mg | C(#N)CC(=O)N1CC(CCC1)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)NC=C2 | C21H22N8O2
